US06780884B2
N-(2,4-dinitrophenyl)tryptamine (ML-25)
1 mMole of tryptamine was dissolved in 100 ml of water and the pH was adjusted to pH 8.3 with 2.5 moles of sodium bicarbonate (NaHCO3), A 1.5% solution of 2,4-dinitrofluorobenzene in 200 liters ethanol was added and the mixture was stirred during 2 hours at room temperature. The desired product precipitates out, it is washed and dried. The product is obtained in 90% yield, and TLC (chloroform, silica-gel plates, reveals one yellow spot (Rf=0.84) which is well resolved from the starting materials under the same conditions.

reactant | tryptamine | 1 mMole | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | sodium bicarbonate | 2.5 moles | C([O-])(O)=O.[Na+]
reactant | 2,4-dinitrofluorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
solvent | water | 100 ml | O | H2O
solvent | ethanol | 200 liters | C(C)O | C2H6O
product | N-(2,4-dinitrophenyl)tryptamine | 90% yield | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NCCC1=CNC2=CC=CC=C12 | C16H14N4O4
